US04473586
1-Aminomethyl-5,6-dimethoxy-1-hydroxy-1,2,3,4-tetrahydronaphthalene is treated with BBr3 according to the method of Example 4 to obtain 1-aminomethyl-5,6-dihydroxy-3,4-dihydronaphthalene HBr identical to that obtained in Example 4.

reactant | 1-Aminomethyl-5,6-dimethoxy-1-hydroxy-1,2,3,4-tetrahydronaphthalene | NCC1(CCCC2=C(C(=CC=C12)OC)OC)O | C13H19NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
product | 1-aminomethyl-5,6-dihydroxy-3,4-dihydronaphthalene HBr | Br.NCC1=CCCC2=C(C(=CC=C12)O)O | InChI=1S/C11H13NO2.BrH/c12-6-7-2-1-3-9-8(7)4-5-10(13)11(9)14;/h2,4-5,13-14H,1,3,6,12H2;1H
